US07122580B2
2-[5-Bromo-2-(4-t-butyl-benzenesulfonylamino)-benzoylamino]-3-(2′-phenoxy-biphenyl-4-yl)propionic acid methyl ester (0.04 g, 0.054 mmol) was treated with LiOH (2 eq, 1N aqueous solution) according to the general procedure C to give 0.034 g (87.0%) of 2-[5-Bromo-2-(4-t-butyl-benzenesulfonylamino)-benzoylamino]-3-(2′-phenoxy-biphenyl-4-yl)propionic acid.

reactant | 2-[5-Bromo-2-(4-t-butyl-benzenesulfonylamino)-benzoylamino]-3-(2′-phenoxy-biphenyl-4-yl)propionic acid methyl ester | 0.054 mmol, 0.04 g | COC(C(CC1=CC=C(C=C1)C1=C(C=CC=C1)OC1=CC=CC=C1)NC(C1=C(C=CC(=C1)Br)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)=O)=O | C39H37BrN2O6S
reactant | LiOH | 1N, 2 eq | [Li+].[OH-]
product | 2-[5-Bromo-2-(4-t-butyl-benzenesulfonylamino)-benzoylamino]-3-(2′-phenoxy-biphenyl-4-yl)propionic acid | 0.034 g, 87.0% | BrC=1C=CC(=C(C(=O)NC(C(=O)O)CC2=CC=C(C=C2)C2=C(C=CC=C2)OC2=CC=CC=C2)C1)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C | C38H35BrN2O6S
